US06191140B1
methyl (2-oxopropoxy)acetate
A solution of 2M dimethyl zinc in toluene (21 mL, 42 mmol) was cooled to 0° C. under nitrogen, treated with trans-benzyl(chloro)bis(triphenylphosphine)palladium(II) (0.57 g, 76 mmol), treated with methyl 2-(chloroformylmethoxy)acetate (12.6 g, 76 mmol) dropwise over 0.5 hours, stirred for 0.5 hours at 0° C., stirred for 16 hours at ambient temperature, treated with 1M HCl (40 mL) and then brine (20 mL). The organic layer was dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography over silica gel (1:2 ethyl acetate/hexanes) to provide the title compound (5.2 g).

reactant | dimethyl zinc | 2M | C[Zn]C
reactant | toluene | 42 mmol, 21 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl 2-(chloroformylmethoxy)acetate | 76 mmol, 12.6 g | ClC(=O)COCC(=O)OC | C5H7ClO4
reactant | HCl | 1M, 40 mL | Cl | ClH
solvent | brine | 20 mL | [Cl-].[Na+].O
catalyst | trans-benzyl(chloro)bis(triphenylphosphine)palladium(II) | 76 mmol, 0.57 g | [CH2-]C1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd+]
product | methyl (2-oxopropoxy)acetate | 5.2 g | O=C(COCC(=O)OC)C | C6H10O4
